US07060827B2
N4-(3-Nitrophenyl)-N2-[(2H) 1,4-benzoxazin-3(4H)-one-6-yl]-5-fluoro-2,4-pyrimidinediamine (940 mg, 2.5 mmol) and Pd/C 10% (300 mg, 50% water content) were suspended in EtOH (7 mL) and 10% aqueous HCl (5 mL) and hydrogenated in a Parr apparatus for 3 hours (22° C., 60 psi). The suspension was filtered over celite and neutralized by addition of K2CO3. The solvents were removed and the resulting black slurry was suspended in MeOH. Silica gel (4 g) was added and the volatiles were removed under reduced pressure. The residue was subjected to column chromatography on silica gel (CHCl3-Acetone, 2:1) to give 186 mg of N4-(3-aminophenyl)-N2-(1,4-benzoxazin-6-yl)-5-fluoro-2,4-pyrimidinediamine as brownish solid. 1H NMR (DMSO-d6): δ 8.92 (s, 1H), 8.64 (s, 1H), 7.95 (d, 1H, J=3.6 Hz), 7.11 (s, 1H), 6.84–6.95 (m, 3H), 6.66 (dd, 1H, J=2.4, 9.0 Hz), 6.46 (d, 1H, J=8.1 Hz), 6.28 (d, 1H, J=8.1 Hz), 5.62 (s, 1H), 4.98 (s, 2H), 4.03 (m, 2H), 3.31 (m, 2H); LCMS purity: 98.4%; MS (m/e): 352.7 (M+, 100).

reactant | N4-(3-Nitrophenyl)-N2-[(2H) 1,4-benzoxazin-3(4H)-one-6-yl]-5-fluoro-2,4-pyrimidinediamine | 2.5 mmol, 940 mg | [N+](=O)([O-])C=1C=C(C=CC1)NC1=NC(=NC=C1F)NC=1C=CC2=C(NC(CO2)=O)C1 | C18H13FN6O4
reactant | HCl | 5 mL | Cl | ClH
solvent | EtOH | 7 mL | CCO | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | N4-(3-aminophenyl)-N2-(1,4-benzoxazin-6-yl)-5-fluoro-2,4-pyrimidinediamine | 186 mg | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC=1C=CC2=C(N=CCO2)C1 | C18H15FN6O
